US05232898
d) Preparation of 3-[6-fluoro-2-oxo-3-(2-propinyl)-5-benzothiazolinyl]-1,5-dimethyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindion
29,6 g of 3-[6-fluoro-2-oxo-3-(2-propinyl)-5-benzothiazolinyl]-5-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindion in 200 ml acetonitrile is stirred with 9,25 g dimethylsulfate and 10,14 g potassium carbonate at 40° C. for 90 minutes. Thereafter, the reaction mixture is poured into 200 ml of water and extracted two times with 200 ml ethyl acetate each time. The organic phase is subsequently concentrated. The thus-obtained residue is purified by chromatography with 400 g silica gel using hexane:ethyl acetate (7:3).

reactant | 3-[6-fluoro-2-oxo-3-(2-propinyl)-5-benzothiazolinyl]-5-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindion | 29,6 g | FC1=CC2=C(N(C(S2)=O)CC#C)C=C1N1C(NC(=C(C1=O)C)C(F)(F)F)=O | C16H9F4N3O3S
reactant | dimethylsulfate | 9,25 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 10,14 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-[6-fluoro-2-oxo-3-(2-propinyl)-5-benzothiazolinyl]-1,5-dimethyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindion | FC1=CC2=C(N(C(S2)=O)CC#C)C=C1N1C(N(C(=C(C1=O)C)C(F)(F)F)C)=O | C17H11F4N3O3S
